US07163936B2
A solution of tert-butyl(4R)-4-aminopentanoate (2.1 g) prepared above, methyl bromoacetate (1.6 ml, 16.9 mmol) and diisopropylethylamine (3.0 ml, 17.2 mmol) in methanol (60 ml) was stirred at 60° C. for 1 hour. Additional methyl bromoacetate (0.3 ml, 3.2 mmol) and diisopropylethylamine (0.6 ml, 3.4 mmol) were added thereto and the mixture was stirred for 1 hour. The mixture was cooled to room temperature and the solvent was removed in vacuo. The residue was dissolved in chloroform (40 ml). To the solution was added ally chloroformate (2.4 ml, 22.6 mmol) and then diisopropylethylamine (4.0 ml, 23.0 mmol). The mixture was stirred at the same temperature for 1 hour. To the reaction mixture was added water and the mixture was extracted three times with chloroform. The organic layer was washed with a saturated aqueous sodium chloride solution, dried over magnesium sulfate and the solvent was removed under reduced pressure. The residue was purified with silica gel chromatography to give tert-butyl(4R)-4-[[(allyloxy)carbonyl](2-methoxy-2-oxoethyl)amino]pentanoate (3.1 g).

reactant | tert-butyl(4R)-4-aminopentanoate | 2.1 g | N[C@@H](CCC(=O)OC(C)(C)C)C | C9H19NO2
reactant | methyl bromoacetate | 16.9 mmol, 1.6 ml | BrCC(=O)OC | C3H5BrO2
reactant | diisopropylethylamine | 17.2 mmol, 3.0 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | methyl bromoacetate | 3.2 mmol, 0.3 ml | BrCC(=O)OC | C3H5BrO2
reactant | diisopropylethylamine | 3.4 mmol, 0.6 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | chloroformate | 22.6 mmol, 2.4 ml | ClC(=O)[O-]
reactant | diisopropylethylamine | 23.0 mmol, 4.0 ml | C(C)(C)N(CC)C(C)C | C8H19N
solvent | methanol | 60 ml | CO | CH4O
solvent | water | O | H2O
product | tert-butyl(4R)-4-[[(allyloxy)carbonyl](2-methoxy-2-oxoethyl)amino]pentanoate | 3.1 g | C(C=C)OC(=O)N([C@@H](CCC(=O)OC(C)(C)C)C)CC(=O)OC | C16H27NO6
